US04339449
To a solution of benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-isocyanoacetate (2.20 g.) in N,N-dimethylformamide (15 ml.) was added zinc powder (3.30 mg.) at 0° C., and the mixture was stirred at the same temperature for 10 minutes. Thereto was added dropwise acetic acid (2.0 ml.) over a period of 3 minutes and the mixture was stirred at 0° C. for 25 minutes. The reaction mixture was diluted with ethyl acetate (50 ml.) and filtered through a pad of Celite. To the filtrate was added ethyl acetate (50 ml.) and washed with a mixture of 5 to 6% aqueous solution of sodium bicarbonate (60 ml.) and a saturated aqueous solution of sodium chloride (30 ml.), a dilute aqueous solution of sodium chloride (30 ml.×2), a saturated aqueous solution of sodium chloride (30 ml.), water (50 ml.) and a saturated aqueous solution of sodium chloride successively. Drying and removal of the solvent left an amorphous solid (1.51 g.). Chromatography on silica gel (15 g.) with a mixed solvent of methylene chloride and ethyl acetate (5:1 by volume) as an eluent and crystallization from diethyl ether gave benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]oct-3-ene-2-carboxylate (750 mg.), mp 141.5°-143.0° C.

reactant | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-isocyanoacetate | 2.20 g | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)[N+]#[C-])=O | C24H20Cl3N3O7S
reactant | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 3.30 mg | [Zn] | Zn
product | benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]oct-3-ene-2-carboxylate | 750 mg | O(C1=CC=CC=C1)CC(=O)NC1C2SC=NC(N2C1=O)C(=O)OCC1=CC=CC=C1 | C21H19N3O5S
